US07074809B2
5-Fluoro-pyridine-2-carboxylic acid (200 mg, 1.13 mmol) was mixed with ethanol (6 mL) and 4 M HCl in dioxane (0.5 mL) at 90° C. for 20 h. The mixture was concentrated and mixed with saturated sodium carbonate and dichloromethane. The dichloromethane layer was washed with brine, dried to give 94 mg (49.3%) of 5-fluoro-pyridine-2-carboxylic acid ethyl ester.

reactant | 5-Fluoro-pyridine-2-carboxylic acid | 1.13 mmol, 200 mg | FC=1C=CC(=NC1)C(=O)O | C6H4FNO2
reactant | ethanol | 6 mL | C(C)O | C2H6O
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | 5-fluoro-pyridine-2-carboxylic acid ethyl ester | 94 mg, 49.3% | C(C)OC(=O)C1=NC=C(C=C1)F | C8H8FNO2
